US06380238B1
Methyl 6-chloro-7-fluoroindole-2-carboxylate
A solution of methyl 2-azido-3-(4-chloro-3-fluorophenyl)propenoate (15.08 g, 59 mmol) in xylene (200 mL) was added dropwise to stirred xylene (1 L) under reflux. The mixture was stirred for 3 h, cooled to room temperature, concentrated in vacuo and purified by column chromatography [SiO2; isopropyl ether-hexane (5:2)] to give the product (2.3 g, 17% yield) as a colourless solid: IR νmax (Nujol)/cm−1 3298, 1709, 1460, 1377, 1204 and 737; NMR δH (400 MHz, CDCl3) 3.85 (3H, s) 7.09-7.15 (1H, m) 7.21 (1H, m) 7.38 (1H, m) and 9.05 (1H, brs).

reactant | methyl 2-azido-3-(4-chloro-3-fluorophenyl)propenoate | 59 mmol, 15.08 g | N(=[N+]=[N-])C(C(=O)OC)=CC1=CC(=C(C=C1)Cl)F | C10H7ClFN3O2
solvent | xylene | 200 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 1 L | C=1(C(=CC=CC1)C)C | C8H10
product | Methyl 6-chloro-7-fluoroindole-2-carboxylate | 2.3 g, 17% yield | ClC1=CC=C2C=C(NC2=C1F)C(=O)OC | C10H7ClFNO2
